US06685617B1
(S)-1,2-Azetidinedicarboxylic Acid 1-(1,1-Dimethylethyl)ester (C9H15NO4)
To a mixture of (S)-(-)-2-azetidinecarboxylic acid (110 mg, 1.1 mmol), Boc2O (290 mg, 1.30 mmol), and DMAP (0.017 g, 0.14 mmol) in 4:1 DMF/H2O (10 mL) is added Et3N (0.30 mL, 2.2 mmol). The reaction mixture is stirred at rt for 68 h, and then is concentrated. The concentrate is diluted with EtOAc, and the EtOAc solution is washed with cold 10% KHSO4. The combined organic extracts are dried, filtered and concentrated to give the title compound as a colorless oil: TLC (750:250:1 Hexanes/acetone/HCO2H) Rf=0.26; 1H NMR (CD3OD) δ 4.97 (1H), 4.57 (1H), 3.98 (1H), 3.87 (1H), 2.57 (H), 2.13 (1H), 1.42 (9H); MS (−ESI) m/z 200.3.

reactant | (S)-(-)-2-azetidinecarboxylic acid | 1.1 mmol, 110 mg | N1[C@@H](CC1)C(=O)O | C4H7NO2
reactant | Boc2O | 1.30 mmol, 290 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 2.2 mmol, 0.30 mL | CCN(CC)CC | C6H15N
catalyst | DMAP | 0.14 mmol, 0.017 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF H2O | 10 mL | CN(C)C=O.O
product | (S)-1,2-Azetidinedicarboxylic Acid 1-(1,1-Dimethylethyl)ester | CC(C)(C)OC(=O)N1[C@@H](CC1)C(=O)O | C9H15NO4
